US08048899B2
To a solution of 5.0 g (29.4 mmol) of 2-fluoro-4-methoxybenzoic acid in methanol (50 mL) at room temperature are added 2.13 mL (29.4 mmol) of thionyl chloride. The reaction is stirred at room temperature for 16 h and the solvent is removed under reduced pressure. The residue is dissolved in DCM and washed with brine. The organic layer is dried (MgSO4), filtered and the filtrate is concentrated under reduced pressure to give 5.04 g (27.1 mmol) of 2-fluoro-4-methoxybenzoic acid methyl ester. Yield: 92%, ES-MS: m/z 185 [M+H].

reactant | 2-fluoro-4-methoxybenzoic acid | 29.4 mmol, 5.0 g | FC1=C(C(=O)O)C=CC(=C1)OC | C8H7FO3
reactant | thionyl chloride | 29.4 mmol, 2.13 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 mL | CO | CH4O
product | 2-fluoro-4-methoxybenzoic acid methyl ester | 27.1 mmol, 5.04 g, Yield: 92% | COC(C1=C(C=C(C=C1)OC)F)=O | C9H9FO3
